US05342395
EXAMPLE 10: GENERAL POLYMERIZATION PROCEDURE FOR l-LACTIDE/GLYCOLIDE-ε-CAPROLACTONE
l-Lactide (l-Lac, 153.3 grams) and Glycolide (Gly, 17.0 grams) were melted and charged into the reactor. The contents were stirred at 200° C. for 2 hours at which point the mixture had again obtained maximum melt viscosity. The polymer was discharged from the reactor, ground, and dried in a vacuum oven at 100° C. and 0.2 mm Hg. The polymer had in inherent viscosity of 1.40 dL/g in chloroform, measured at 30° C. on a 0.5% solution. The polymer composition, as measured by 1H-NMR spectroscopy was 15.9/74.1/10.0 weight percent CAP/l-LAC/Gly.

reactant | l-Lactide | 153.3 grams | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
reactant | Glycolide | 17.0 grams | C1C(=O)OCC(=O)O1 | C4H4O4
product | l-LACTIDE GLYCOLIDE ε-CAPROLACTONE | C[C@H]1C(=O)O[C@H](C(=O)O1)C.C1C(=O)OCC(=O)O1.C1(CCCCCO1)=O | InChI=1S/C6H8O4.C6H10O2.C4H4O4/c1-3-5(7)10-4(2)6(8)9-3;7-6-4-2-1-3-5-8-6;5-3-1-7-4(6)2-8-3/h3-4H,1-2H3;1-5H2;1-2H2/t3-,4-;;/m0../s1
